US05026856
8.02 g of 2-benzyl-4-methoxycarbonylisoindoline was dissolved in 20 ml of anhydrous tetrahydrofuran and to the solution was added 1.9 g of lithium aluminum hydride. After stirring for 20 hours at room temperature, an aqueous solution of sodium sulfate was added. Insoluble materials were removed by filtration, the filtrate was concentrated, and the residue was recrystallized from ether to give 5.27 g of 2-benzyl-4-hydroxymethylisoindoline.

reactant | 2-benzyl-4-methoxycarbonylisoindoline | 8.02 g | C(C1=CC=CC=C1)N1CC2=CC=CC(=C2C1)C(=O)OC | C17H17NO2
reactant | lithium aluminum hydride | 1.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-benzyl-4-hydroxymethylisoindoline | 5.27 g | C(C1=CC=CC=C1)N1CC2=CC=CC(=C2C1)CO | C16H17NO
